### PR TITLE
feat(R-project): Implements IsResidueAlgebra

### PR DESCRIPTION
**Pull request by javierlcontreras**
Given an `{𝓞 : Type*} [CommRing 𝓞] [IsLocalRing 𝓞]`, `IsResidueAlgebra 𝓞 A` is a predicate that states that a A has the "same" residue field as `𝓞`.

### CODE REVIEW

**Review by kbuzzard — COMMENTED** [review]
some preliminary comments

File: FLT/Deformations/IsResidueAlgebra.lean [hunk 1]
```diff
@@ -0,0 +1,117 @@
...
+
+variable {𝓞 : Type*}
+  [CommRing 𝓞] [IsLocalRing 𝓞]
+
+local notation3:max "𝓴" 𝓞 => (IsLocalRing.ResidueField 𝓞)
+
+variable (A : Type*) [CommRing A] [Algebra 𝓞 A] [IsLocalRing A] [IsLocalHom (algebraMap 𝓞 A)]
+
+-- modMap : O --Under.hom-> A --IsLocalRing.residue-> k A
+variable (𝓞) in
```
[the remark this answers is not in the document]
Comment (javierlcontreras) [reply FLT/Deformations/IsResidueAlgebra.lean:18]: Whops... This code originally came from another file where {O} made sense, but here it does not. Fixed!

File: FLT/Mathlib/RingTheory/LocalRing/Defs.lean [hunk 2]
```diff
@@ -0,0 +1,16 @@
...
+
+instance isLocalRing_of_quotient (I : Ideal R) [I.NeqTop]
+    : IsLocalRing (R ⧸ I) where
+  exists_pair_ne := by
+    have ho : ∃ x, x ∉ I := by sorry
+    use 0
+    use algebraMap _ _ ho.choose
+    sorry
+  isUnit_or_isUnit_of_add_one := by
+    sorry
```
[the remark this answers is not in the document]
Comment (javierlcontreras) [reply FLT/Mathlib/RingTheory/LocalRing/Defs.lean:16]: Thanks!

File: FLT/Deformations/IsResidueAlgebra.lean [hunk 3]
```diff
@@ -0,0 +1,105 @@
...
+
+local notation3:max "𝓴" 𝓞 => (IsLocalRing.ResidueField 𝓞)
+
+variable (A : Type*) [CommRing A] [Algebra 𝓞 A] [IsLocalRing A] [IsLocalHom (algebraMap 𝓞 A)]
+
+-- modMap : O --Under.hom-> A --IsLocalRing.residue-> k A
+abbrev modMap_high : 𝓞 →+* 𝓴 A :=
+  (IsLocalRing.residue A).comp (algebraMap 𝓞 A)
+
+abbrev modMap : (𝓴 𝓞) →+* 𝓴 A :=
```
Comment (kbuzzard) [inline FLT/Deformations/IsResidueAlgebra.lean:21]: This is `IsLocalRing.ResidueField.map`

File: FLT/Deformations/IsResidueAlgebra.lean [hunk 4]
```diff
@@ -0,0 +1,105 @@
...
+
+namespace IsResidueAlgebra
+
+variable [IsResidueAlgebra 𝓞 A]
+
+instance instSurjective : Surjective (modMap 𝓞 A) := by
+  have hcomp : (modMap 𝓞 A) ∘ (IsLocalRing.residue (R := 𝓞)) = modMap_high 𝓞 A := by aesop
+  have hsurj1 := (IsLocalRing.residue_surjective (R := 𝓞))
+  have hsurj2 := IsResidueAlgebra.isSurjective (𝓞 := 𝓞) (A := A)
+  unfold modMap_high at hsurj2
```
Comment (kbuzzard) [inline FLT/Deformations/IsResidueAlgebra.lean:37]: You surely don't need to `unfold` an `abbrev` -- isn't that the point of `abbrev`s?

File: FLT/Deformations/IsResidueAlgebra.lean [hunk 5]
```diff
@@ -0,0 +1,105 @@
...
+  refine (Function.Surjective.of_comp_iff (modMap 𝓞 A) hsurj1).mp hsurj2
```
Comment (kbuzzard) [inline FLT/Deformations/IsResidueAlgebra.lean:38]:
```suggestion
  exact (Function.Surjective.of_comp_iff (modMap 𝓞 A) hsurj1).mp hsurj2
```

File: FLT/Deformations/IsResidueAlgebra.lean [hunk 6]
```diff
@@ -0,0 +1,105 @@
...
+instance instInjective : Injective (modMap 𝓞 A) := RingHom.injective (modMap 𝓞 A)
+
+class IsResidueAlgebra : Prop where
+  isSurjective : Surjective (modMap_high 𝓞 A)
+
+namespace IsResidueAlgebra
+
+variable [IsResidueAlgebra 𝓞 A]
+
+instance instSurjective : Surjective (modMap 𝓞 A) := by
```
Comment (kbuzzard) [inline FLT/Deformations/IsResidueAlgebra.lean:33]: `Surjective` is not a class so this will never fire as an instance. It's just a theorem.

File: FLT/Deformations/IsResidueAlgebra.lean [hunk 7]
```diff
@@ -0,0 +1,105 @@
...
+variable (A : Type*) [CommRing A] [Algebra 𝓞 A] [IsLocalRing A] [IsLocalHom (algebraMap 𝓞 A)]
+
+-- modMap : O --Under.hom-> A --IsLocalRing.residue-> k A
+abbrev modMap_high : 𝓞 →+* 𝓴 A :=
+  (IsLocalRing.residue A).comp (algebraMap 𝓞 A)
+
+abbrev modMap : (𝓴 𝓞) →+* 𝓴 A :=
+  IsLocalRing.ResidueField.lift (modMap_high 𝓞 A)
+
+instance instInjective : Injective (modMap 𝓞 A) := RingHom.injective (modMap 𝓞 A)
```
Comment (kbuzzard) [inline FLT/Deformations/IsResidueAlgebra.lean:24]: `Function.Injective` isn't a class so it doesn't make sense for this to be an `instance`. It's a theorem.

File: FLT/Deformations/IsResidueAlgebra.lean [hunk 8]
```diff
@@ -0,0 +1,105 @@
...
+lemma leftInverse : LeftInverse (modMapInv' 𝓞 A) (modMap 𝓞 A) :=
+  leftInverse_invFun (instInjective 𝓞 A)
+
+lemma rightInverse : RightInverse (modMapInv' 𝓞 A) (modMap 𝓞 A) :=
+  rightInverse_invFun (instSurjective 𝓞 A)
+
+noncomputable abbrev modMapInv : (𝓴 A) →+* 𝓴 𝓞 :=
+  RingHom.inverse (modMap 𝓞 A) (modMapInv' 𝓞 A) (leftInverse 𝓞 A) (rightInverse 𝓞 A)
+
+instance instRingHomPair₁ : RingHomInvPair (modMap 𝓞 A) (modMapInv 𝓞 A) where
```
Comment (kbuzzard) [inline FLT/Deformations/IsResidueAlgebra.lean:52]: I think that this is an implementation detail -- do you really need it?

File: FLT/Deformations/IsResidueAlgebra.lean [hunk 9]
```diff
@@ -0,0 +1,105 @@
...
+variable [IsResidueAlgebra 𝓞 A]
+
+instance instSurjective : Surjective (modMap 𝓞 A) := by
+  have hcomp : (modMap 𝓞 A) ∘ (IsLocalRing.residue (R := 𝓞)) = modMap_high 𝓞 A := by aesop
+  have hsurj1 := (IsLocalRing.residue_surjective (R := 𝓞))
+  have hsurj2 := IsResidueAlgebra.isSurjective (𝓞 := 𝓞) (A := A)
+  unfold modMap_high at hsurj2
+  refine (Function.Surjective.of_comp_iff (modMap 𝓞 A) hsurj1).mp hsurj2
+
+noncomputable abbrev modMapInv' : (𝓴 A) → 𝓴 𝓞 := invFun (modMap 𝓞 A)
```
Comment (kbuzzard) [inline FLT/Deformations/IsResidueAlgebra.lean:40]: I am not at all sure that you need this definition and much of what follows.

File: FLT/Deformations/IsResidueAlgebra.lean [hunk 10]
```diff
@@ -0,0 +1,105 @@
...
+  comp_eq := by
+    ext x
+    simp only [RingHom.coe_comp, Function.comp_apply, RingHom.inverse_apply, RingHom.id_apply]
+    exact (leftInverse 𝓞 A) x
+  comp_eq₂ := by
+    ext x
+    simp only [RingHom.coe_comp, Function.comp_apply, RingHom.inverse_apply, RingHom.id_apply]
+    exact (rightInverse 𝓞 A) x
+
+noncomputable def ringEquiv : (𝓴 𝓞) ≃+* (𝓴 A) := .ofHomInv (modMap 𝓞 A) (modMapInv 𝓞 A)
```
Comment (kbuzzard) [inline FLT/Deformations/IsResidueAlgebra.lean:62]: You can just use `RingEquiv.ofBijective` to get this.

File: FLT/Deformations/IsResidueAlgebra.lean [hunk 11]
```diff
@@ -0,0 +1,105 @@
...
+  (by change (modMapInv _ _).comp (modMap _ _) = _; simp)
+  (by change (modMap _ _).comp (modMapInv _ _) = _; simp)
+
+instance instRingHomPair₂ : RingHomInvPair (modMapInv 𝓞 A) (modMap 𝓞 A) where
+  comp_eq := by simp
+  comp_eq₂ := by simp
+
+noncomputable instance : Algebra (𝓴 A) (𝓴 𝓞) := RingHom.toAlgebra (modMapInv 𝓞 A)
```
Comment (kbuzzard) [inline FLT/Deformations/IsResidueAlgebra.lean:70]: This looks very weird to me. I could imagine it being far more likely that k_A is a k_O-algebra, and then this instance will cause weird loops in the typeclass inference system (because k_O might end up being a k_O-algebra in two different ways). Can you give a coherent argument for including this instance? It looks very disruptive.

File: FLT/Deformations/IsResidueAlgebra.lean [hunk 12]
```diff
@@ -0,0 +1,105 @@
...
+    letI := instRingHomPair₁ 𝓞 A
+    exact RingHomInvPair.comp_eq (self := this)
+  comp_eq₂ := by
+    unfold algebraMap Algebra.algebraMap instAlgebraResidueField IsLocalRing.ResidueField.instAlgebra
+    have h : modMap 𝓞 A = (IsLocalRing.ResidueField.map (algebraMap 𝓞 A)) := by aesop
+    rw [← h]
+    letI := instRingHomPair₁ 𝓞 A
+    exact RingHomInvPair.comp_eq₂ (self := this)
+
+instance algebraMap_instRingHomPair₂ : RingHomInvPair (algebraMap (𝓴 A) (𝓴 𝓞)) (algebraMap (𝓴 𝓞) (𝓴 A)) where
```
Comment (kbuzzard) [inline FLT/Deformations/IsResidueAlgebra.lean:86]: Again I always felt that `RingHomInvPair` was some kind of implementation detail for semilinear maps. What is this offering you that the RingEquiv isn't already giving you? That should surely be all you need (I'm not even clear about why you need that, but I could imagine you explaining why to me; I can imagine that there is a mathematical reason. But my guess is that the RingEquiv is all you need).

File: FLT/Mathlib/RingTheory/LocalRing/Defs.lean [hunk 13]
```diff
@@ -0,0 +1,17 @@
...
+import Mathlib.RingTheory.LocalRing.Defs
+
+variable {R : Type*} [CommRing R] [IsLocalRing R]
+
+instance isLocalRing_of_quotient (I : Ideal R) [Nontrivial (R ⧸ I)] :
+    IsLocalRing (R ⧸ I) where
+  exists_pair_ne := exists_pair_ne (R ⧸ I)
+  isUnit_or_isUnit_of_add_one {a b} h := by
+    induction a using Quotient.inductionOn
+    rename_i a₀
```
Comment (kbuzzard) [inline FLT/Mathlib/RingTheory/LocalRing/Defs.lean:11]:
```suggestion
    induction a using Quotient.inductionOn with
    | h a₀ =>
```
That's more idiomatic

File: FLT/Deformations/IsResidueAlgebra.lean (hunk 3 above)
Comment (javierlcontreras) [reply FLT/Deformations/IsResidueAlgebra.lean:21]: Fixed

File: FLT/Deformations/IsResidueAlgebra.lean (hunk 4 above)
Comment (javierlcontreras) [reply FLT/Deformations/IsResidueAlgebra.lean:37]: Fixed! (it wasnt an abbrev originally, then move to abbrev, forgot to take all the unfolds out)

File: FLT/Deformations/IsResidueAlgebra.lean (hunk 5 above)
Comment (javierlcontreras) [reply FLT/Deformations/IsResidueAlgebra.lean:38]: fixed!

File: FLT/Deformations/IsResidueAlgebra.lean (hunk 6 above)
Comment (javierlcontreras) [reply FLT/Deformations/IsResidueAlgebra.lean:33]: Fixed!

File: FLT/Deformations/IsResidueAlgebra.lean (hunk 7 above)
Comment (javierlcontreras) [reply FLT/Deformations/IsResidueAlgebra.lean:24]: Fixed

File: FLT/Mathlib/RingTheory/LocalRing/Defs.lean (hunk 13 above)
Comment (javierlcontreras) [reply FLT/Mathlib/RingTheory/LocalRing/Defs.lean]: Solved

File: FLT/Deformations/IsResidueAlgebra.lean (hunk 12 above)
Comment (javierlcontreras) [reply FLT/Deformations/IsResidueAlgebra.lean]: I've found where I needed this! Without it, the following line complains of a missing instance

`variable (reduction : ((𝓴 A) ⊗[A] W) ≃ₛₗ[(IsResidueAlgebra.ringEquiv 𝓞 A).symm.toRingHom] V)`

The docstring explains why `RingHomInvPair.of_ringEquiv` is not an instance in general. https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Ring/CompTypeclasses.html#RingHomInvPair.of_ringEquiv I believe in my case, it is ok to make it an instance.

File: FLT/Deformations/IsResidueAlgebra.lean (hunk 11 above)
Comment (javierlcontreras) [reply FLT/Deformations/IsResidueAlgebra.lean]: I can avoid it easily, I was just using it to have easy (as in few typed characters) access to algebraMap (\MCk A) (\MCk \MCO). I can delete the instance and just call the ringHom manually (ringEquiv \MCO A).symm.toRingHom

Comment (javierlcontreras) [reply FLT/Deformations/IsResidueAlgebra.lean]: Deleted the instance

File: FLT/Deformations/IsResidueAlgebra.lean (hunk 10 above)
Comment (javierlcontreras) [reply FLT/Deformations/IsResidueAlgebra.lean]: Fixed! This makes the code smaller, the modMapInv' is not needed anymore!

File: FLT/Deformations/IsResidueAlgebra.lean (hunk 9 above)
Comment (javierlcontreras) [reply FLT/Deformations/IsResidueAlgebra.lean]: I was using it because I was not aware of the existance of RingEquiv.ofBijective

File: FLT/Deformations/IsResidueAlgebra.lean (hunk 12 above)
Comment (kbuzzard) [reply FLT/Deformations/IsResidueAlgebra.lean]: What does this say mathematically? I don't know what the variables are. You really need semilinear maps here? This isn't just an `𝓞 A`-algebra isomorphism `((𝓴 A) ⊗[A] W) ≃ₗ[𝓞 A] V`?

Comment (javierlcontreras) [reply FLT/Deformations/IsResidueAlgebra.lean]: - `G` is a topological group
- `𝓴 X` is notation for the residue field of `{X : Type*} [CommRing X] [IsLocalRing X]`
- `𝓞` is a `CommRing, IsLocalRing, IsNoetherianRing` and represents the Witt Vectors of `(𝓴 𝓞) = k`, `k` is topologized discretely
- `V` is a `k`-representation of `G`, topologized discretely
- `A` is a `𝓞`-algebra which is 
    - `IsLocalRing A`
    - `IsLocalHom (algebraMap A (𝓴 A))`
    - `IsResidueAlgebra` (meaning its residue field is isomorphic to `k` via the canonical algebraMap)
    - `IsProartinianRing` (meaning its isomorphic, via the diagonal map, to the inverse limit of its artinian quotients, and gets topologized by induced topology over this isomorphism, where the RHS is topologized as the InverseLimit topology where each quotient is topologized discretely) 
- `W` is an `A`-representation of `G`

What the semilinear map is saying is that the representation 'W' is isomorphic to 'V' after extending the constants from A to (𝓴 A).

Comment (kbuzzard) [reply FLT/Deformations/IsResidueAlgebra.lean]: Oh I had slightly misunderstood notation. Thanks for the explanation. I meant `((𝓴 A) ⊗[A] W) ≃ₗ[𝓞] V. You have k an O-algebra and V a k-module so you can make V into an O-module. Similarly you can make k(A) into an O-algebra because A is an O-algebra, so the tensor product becomes an O-algebra. This way you can avoid all this sl stuff completely.

Comment (javierlcontreras) [reply FLT/Deformations/IsResidueAlgebra.lean]: Oh that's much better. Not sure why I didn't consider this...

File: FLT/Mathlib/RingTheory/LocalRing/Defs.lean [hunk 14]
```diff
@@ -0,0 +1,17 @@
+import Mathlib.RingTheory.Ideal.Quotient.Operations
+import Mathlib.RingTheory.LocalRing.Defs
+
+variable {R : Type*} [CommRing R] [IsLocalRing R]
+
+instance isLocalRing_of_quotient (I : Ideal R) [Nontrivial (R ⧸ I)] :
```
[the remark this answers is not in the document]
Comment (javierlcontreras) [reply FLT/Mathlib/RingTheory/LocalRing/Defs.lean:6]: Thanks!

**Comment by javierlcontreras** [comment]
I solved the sorry in `instance (I : Ideal A) [Nontrivial (A ⧸ I)] : IsResidueAlgebra 𝓞 (A ⧸ I)`, adding a few lines of unreviewed code in the file IsResidueAlgebra.lean

File: FLT/Deformations/IsResidueAlgebra.lean (hunk 12 above)
Comment (javierlcontreras) [reply FLT/Deformations/IsResidueAlgebra.lean]: This works, took the ringHomPair instances out

File: FLT/Deformations/IsResidueAlgebra.lean [hunk 15]
```diff
@@ -0,0 +1,117 @@
...
+end Quotient
+
+section Relative
+
+variable {𝓞 A}
+  {B : Type*} [CommRing B] [Algebra 𝓞 B] [IsLocalRing B] [IsLocalHom (algebraMap 𝓞 B)] [IsResidueAlgebra 𝓞 B]
+
+def relativeResidueAlgebra (f : A →ₐ[𝓞] B) [isLocalHom : IsLocalHom f.toRingHom] :
+    letI : Algebra A B := f.toAlgebra; IsResidueAlgebra A B :=
+  letI : Algebra A B := f.toAlgebra
```
Comment (erdOne) [inline FLT/Deformations/IsResidueAlgebra.lean:90]:
```suggestion
lemma relativeResidueAlgebra [Algebra A B] [IsScalarTower R A B] [IsLocalHom (algebraMap A B)] :
    IsResidueAlgebra A B :=
```
I think you might want this instead. And the name should probably be `IsResidueAlgebra.of_restrictScalars` or some thing similar?

Comment (javierlcontreras) [reply FLT/Deformations/IsResidueAlgebra.lean:90]: This looks better indeed. And it can be made into a instance :)

File: FLT/Deformations/IsResidueAlgebra.lean [hunk 16]
```diff
@@ -85,30 +85,29 @@ section Relative
...
-        rw [← hcomp] at hsurj12
-        exact (Surjective.of_comp_iff (modMap A B) hsurj11).mp hsurj12
-      have hsurj2 : Surjective (IsLocalRing.residue A) := (IsLocalRing.residue_surjective (R := A))
-      exact Function.Surjective.comp hsurj1 hsurj2
-  }
+omit [IsLocalRing 𝓞] [IsLocalHom (algebraMap 𝓞 A)] [IsLocalHom (algebraMap 𝓞 B)] in
+lemma of_restrictScalars [Algebra A B] [isScalarTower : IsScalarTower 𝓞 A B]
+    [isLocalHom : IsLocalHom (algebraMap A B)] : IsResidueAlgebra A B where
+  isSurjective := by
+    letI : IsLocalHom (algebraMap A B) := isLocalHom
```
Comment (erdOne) [inline FLT/Deformations/IsResidueAlgebra.lean:92]:
```suggestion
```

File: FLT/Deformations/IsResidueAlgebra.lean [hunk 17]
```diff
@@ -0,0 +1,116 @@
...
+
+local notation3:max "𝓴" 𝓞 => (IsLocalRing.ResidueField 𝓞)
+
+variable (A : Type*) [CommRing A] [Algebra 𝓞 A] [IsLocalRing A] [IsLocalHom (algebraMap 𝓞 A)]
+
+abbrev modMap_high : 𝓞 →+* 𝓴 A :=
+  (IsLocalRing.residue A).comp (algebraMap 𝓞 A)
+
+abbrev modMap : (𝓴 𝓞) →+* 𝓴 A :=
+  IsLocalRing.ResidueField.map (algebraMap 𝓞 A)
```
Comment (erdOne) [inline FLT/Deformations/IsResidueAlgebra.lean:21]: I think you should just use `algebraMap 𝓞 (𝓴 A)` and `algebraMap (𝓴 𝓞) (𝓴 A)` and not add new abbrevs.

File: FLT/Deformations/IsResidueAlgebra.lean [hunk 18]
```diff
@@ -0,0 +1,116 @@
...
+section Quotient
+
+variable {A} in
+omit [IsLocalRing A] in
+lemma Ideal.neq_top_of_nontrivial_quotient (I : Ideal A) [nontrivial : Nontrivial (A ⧸ I)] : I ≠ ⊤ := by
+  by_contra hc
+  have h := nontrivial.exists_pair_ne
+  have hsubsing := Ideal.Quotient.subsingleton_iff.mpr hc
+  rw [hc] at *
+  exact h.choose_spec.choose_spec (hsubsing.allEq h.choose h.choose_spec.choose)
```
Comment (erdOne) [inline FLT/Deformations/IsResidueAlgebra.lean:49]: This is (kinda) `Ideal.Quotient.zero_ne_one_iff`

File: FLT/Deformations/IsResidueAlgebra.lean [hunk 19]
```diff
@@ -0,0 +1,116 @@
...
+
+variable {A} in
+def residue_of_quot (I : Ideal A) [nontrivial : Nontrivial (A ⧸ I)] : (𝓴 A) →+* 𝓴 (A ⧸ I) :=
```
Comment (erdOne) [inline FLT/Deformations/IsResidueAlgebra.lean:52]: I think this is `algebraMap (𝓴 A) (𝓴 (A ⧸ I))` but I might be wrong.

File: FLT/Deformations/IsResidueAlgebra.lean (hunk 18 above)
Comment (javierlcontreras) [reply FLT/Deformations/IsResidueAlgebra.lean:49]: I don't know how to find a cleaner proof using `Ìdeal.Quotient.zero_ne_one_iff`. What do you think about

```
variable {A} in
omit [IsLocalRing A] in
lemma Ideal.neq_top_of_nontrivial_quotient (I : Ideal A) [nontrivial : Nontrivial (A ⧸ I)] : I ≠ ⊤ := by
  by_contra hc
  have hsubsing := Ideal.Quotient.subsingleton_iff.mpr hc
  exact false_of_nontrivial_of_subsingleton (A ⧸ I)
```

Comment (erdOne) [reply FLT/Deformations/IsResidueAlgebra.lean]: I was thinking of 
```
lemma Ideal.neq_top_of_nontrivial_quotient (I : Ideal A) [nontrivial : Nontrivial (A ⧸ I)] : I ≠ ⊤ :=
  Ideal.Quotient.zero_ne_one_iff.mp zero_ne_one
```

**Comment by kbuzzard** [comment]
Can you `#lint` the file? It has some errors, which are not currently caught by FLT CI (I'm working on fixing it)

File: FLT/Deformations/IsResidueAlgebra.lean [hunk 20]
```diff
@@ -0,0 +1,109 @@
...
+namespace Deformation
+
+variable (𝓞 : Type*)
+  [CommRing 𝓞] [IsLocalRing 𝓞]
+
+local notation3:max "𝓴" 𝓞 => (IsLocalRing.ResidueField 𝓞)
+
+variable (A : Type*) [CommRing A] [Algebra 𝓞 A] [IsLocalRing A] [IsLocalHom (algebraMap 𝓞 A)]
+
+lemma injective : Injective (algebraMap (𝓴 𝓞) (𝓴 A)) := RingHom.injective (algebraMap (𝓴 𝓞) (𝓴 A))
```
Comment (kbuzzard) [inline FLT/Deformations/IsResidueAlgebra.lean:17]: Do you need to make this lemma at all when we already have `RingHom.injective`?

File: FLT/Deformations/IsResidueAlgebra.lean [hunk 21]
```diff
@@ -0,0 +1,109 @@
...
+class IsResidueAlgebra : Prop where
+  isSurjective : Surjective (algebraMap 𝓞 (𝓴 A))
+
+namespace IsResidueAlgebra
+
+variable [IsResidueAlgebra 𝓞 A]
+
+lemma surjective : Surjective (algebraMap (𝓴 𝓞) (𝓴 A)) := by
+  have hsurj1 := (IsLocalRing.residue_surjective (R := 𝓞))
+  have hsurj2 := IsResidueAlgebra.isSurjective (𝓞 := 𝓞) (A := A)
```
Comment (kbuzzard) [inline FLT/Deformations/IsResidueAlgebra.lean:28]: Both times you call `IsResidueAlgebra.isSurjective` you follow it up with `(R := ...)` which makes me think that you should call the field of `IsResidueAlgebra` `isSurjective'` and then prove `IsResidueAlgebra.isSurjective` with an explicit `R`.

File: FLT/Deformations/IsResidueAlgebra.lean (hunk 19 above)
Comment (kbuzzard) [reply FLT/Deformations/IsResidueAlgebra.lean:44]: I feel like the proof shouldn't be anywhere near this long. If Andrew is wrong then maybe what's missing is
```lean
lemma _Ideal.Quotient.isLocalHom_mk {A : Type*} [CommRing A] [IsLocalRing A] 
    (I : Ideal A) [nontrivial : Nontrivial (A ⧸ I)] :
  IsLocalHom (Ideal.Quotient.mk I) := sorry
```
which should make things easier. Two small proofs is better than one big one.

File: FLT/Deformations/IsResidueAlgebra.lean [hunk 22]
```diff
@@ -0,0 +1,109 @@
...
+  by_contra hc
+  have hsubsing := Ideal.Quotient.subsingleton_iff.mpr hc
+  exact false_of_nontrivial_of_subsingleton (A ⧸ I)
+
+variable {A} in
+def residue_of_quot (I : Ideal A) [nontrivial : Nontrivial (A ⧸ I)] : (𝓴 A) →+* 𝓴 (A ⧸ I) :=
+  Ideal.quotientMap (IsLocalRing.maximalIdeal (A ⧸ I)) (Ideal.Quotient.mk I) (by
+    rw [← Ideal.map_le_iff_le_comap]
+    suffices h : Ideal.map (Ideal.Quotient.mk I) (IsLocalRing.maximalIdeal A) ≠ ⊤ by
+      exact IsLocalRing.le_maximalIdeal h
```
Comment (kbuzzard) [inline FLT/Deformations/IsResidueAlgebra.lean:48]:
```suggestion
    apply IsLocalRing.le_maximalIdeal
```

File: FLT/Deformations/IsResidueAlgebra.lean [hunk 23]
```diff
@@ -0,0 +1,109 @@
...
+    rw [Ideal.ne_top_iff_one]
+    by_contra hcontra
+    have h := (Ideal.mem_map_iff_of_surjective (Ideal.Quotient.mk I) (Ideal.Quotient.mk_surjective)).mp hcontra
+    let x := h.choose
```
Comment (kbuzzard) [inline FLT/Deformations/IsResidueAlgebra.lean:52]: Just do `cases h` (or, better, `obtain`), you don't need all this `choose` and `choose_spec` stuff, you're not making a definition.

File: FLT/Deformations/IsResidueAlgebra.lean (hunk 20 above)
Comment (javierlcontreras) [reply FLT/Deformations/IsResidueAlgebra.lean:17]: Fixed

File: FLT/Deformations/IsResidueAlgebra.lean (hunk 19 above)
Comment (javierlcontreras) [reply FLT/Deformations/IsResidueAlgebra.lean:44]: For now, it seems like `algebraMap (𝓴 A) (𝓴 (A ⧸ I))` doesn't work, algebra instance missing.

I'm now reproving it using the lemma stated by Kevin (will take a few minutes)

File: FLT/Deformations/IsResidueAlgebra.lean (hunk 21 above)
Comment (javierlcontreras) [reply FLT/Deformations/IsResidueAlgebra.lean:28]: Fixed

File: FLT/Deformations/IsResidueAlgebra.lean (hunk 22 above)
Comment (javierlcontreras) [reply FLT/Deformations/IsResidueAlgebra.lean:48]: Fixed

File: FLT/Deformations/IsResidueAlgebra.lean (hunk 19 above)
Comment (javierlcontreras) [reply FLT/Deformations/IsResidueAlgebra.lean:81]: I managed to solve this, but  now the proof of Kevin's lemma is bigger (in number of lines, but mathematically simpler) than the previous one.

Comment (erdOne) [reply FLT/Deformations/IsResidueAlgebra.lean:92]:
```
import Mathlib

variable {R : Type*} [CommRing R] [IsLocalRing R] (I : Ideal R) [Nontrivial (R ⧸ I)]

open IsLocalRing

instance : IsLocalRing (R ⧸ I) := .of_surjective' (algebraMap R (R ⧸ I)) Ideal.Quotient.mk_surjective

instance : IsLocalHom (algebraMap R (R ⧸ I)) := .of_surjective (algebraMap R (R ⧸ I)) Ideal.Quotient.mk_surjective

example : Algebra (ResidueField R) (ResidueField (R ⧸ I)) := inferInstance
```
This works I think.

Comment (javierlcontreras) [reply FLT/Deformations/IsResidueAlgebra.lean:92]: Wow magic
